US08703946B2
5-Acetyl-3-phenoxymethyl-pyrazole-1-sulfonic acid dimethylamide (0.1 g, 0.32 mmol) was dissolved in a 1.25M solution of HCl in methanol (3.79 mL) in a sealed tube and under nitrogen. The mixture was stirred at 65° C. for 24 hours, then basified with a saturated solution of NaHCO3 and extracted with DCM. The organic layer was separated, dried (MgSO4), filtered and the solvents evaporated in vacuo. The crude product was purified by flash column chromatography (silica; AcOEt in DCM 0/100 to 40/60). The desired fractions were collected and the solvents evaporated in vacuo to yield 1-(5-phenoxymethyl-2H-pyrazol-3-yl)-ethanone (55 mg, 81% yield) as a white solid.

reactant | 5-Acetyl-3-phenoxymethyl-pyrazole-1-sulfonic acid dimethylamide | 0.32 mmol, 0.1 g | CN(S(=O)(=O)N1N=C(C=C1C(C)=O)COC1=CC=CC=C1)C | C14H17N3O4S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | HCl | Cl | ClH
solvent | methanol | 3.79 mL | CO | CH4O
product | 1-(5-phenoxymethyl-2H-pyrazol-3-yl)-ethanone | 55 mg, 81% yield | O(C1=CC=CC=C1)CC=1C=C(NN1)C(C)=O | C12H12N2O2
